US08283354B2
(Tetrahydro-2H-pyran-2-yl)methyl 1H-imidazole-1-carboxylate
A solution of (tetrahydro-2H-pyran-2-yl)methanol (1 g, 8.60 mmol) and di(1H-imidazol-1-yl)methanone (2.8 g, 17.2 mmol) in 17 mL CH2Cl2 was heated overnight at 50° C. The reaction was quenched with water, extracted with CH2Cl2, dried over MgSO4, filtered, and concentrated.

reactant | (tetrahydro-2H-pyran-2-yl)methanol | 8.60 mmol, 1 g | O1C(CCCC1)CO | C6H12O2
reactant | di(1H-imidazol-1-yl)methanone | 17.2 mmol, 2.8 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
solvent | CH2Cl2 | 17 mL | C(Cl)Cl | CH2Cl2
product | (Tetrahydro-2H-pyran-2-yl)methyl 1H-imidazole-1-carboxylate | N1(C=NC=C1)C(=O)OCC1OCCCC1 | C10H14N2O3
